US05387585
1. 17.3 g of 2-aminothiophene-3-carbonitrile are dissolved in 150 ml of dioxan. 13.3 g of chloroacetonitrile are added thereto, the mixture is cooled to 2° C., hydrogen chloride is introduced for 7 h. and the mixture is subsequently stirred at room temperature for 15 h. The reaction mixture is evaporated in a vacuum. The residue is suspended in 500 ml of water and the crystals am filtered off. There are obtained 26.2 g of crude 4-chloro-2-(chloromethyl)thieno[2,3-d]pyrimidine. Pure product of m.p. 66°-68° C. is obtained after recrystallization from hexane.

reactant | 2-aminothiophene-3-carbonitrile | 17.3 g | NC=1SC=CC1C#N | C5H4N2S
reactant | chloroacetonitrile | 13.3 g | ClCC#N | C2H2ClN
reactant | hydrogen chloride | Cl | ClH
solvent | dioxan | 150 ml | O1CCOCC1 | C4H8O2
product | 4-chloro-2-(chloromethyl)thieno[2,3-d]pyrimidine | 26.2 g | ClC=1C2=C(N=C(N1)CCl)SC=C2 | C7H4Cl2N2S
